US06008230
To a solution of 4-chloro-8-(2,6-dichlorobenzoylamino)quinoline (659 mg) in dimethyl sulfoxide (10 ml) was added sodium azide (487 mg), and the mixture was stirred at 90° C. for 8 hours. The mixture was diluted with water (20 ml), and the precipitate was filtered and washed with water to give 4-azido-8-(2,6-dichlorobenzoylamino)quinoline (560 mg) as white solid.

reactant | 4-chloro-8-(2,6-dichlorobenzoylamino)quinoline | 659 mg | ClC1=CC=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O | C16H9Cl3N2O
reactant | sodium azide | 487 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | 20 ml | O | H2O
product | 4-azido-8-(2,6-dichlorobenzoylamino)quinoline | 560 mg | N(=[N+]=[N-])C1=CC=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O | C16H9Cl2N5O
